US06255307B1
6. 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine
A suspension of 2-amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine (0.3 g, 9.71×10−4 mole) in absolute ethanol (4 ml) and 0.880 aqueous ammonia (8.24 ml) was stirred and heated in an autoclave at 180° C. for 44 hrs. The cooled mixture was evaporated in vacuo, and the residue extracted with chloroform (3×30 ml). The combined chloroform extracts were dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated down in vacuo. The residue was purified by ‘flash chromatography’ using chloroform to 98:2 chloroform:methanol as the eluent. The product was triturated with 40-60° C. petroleum ether, filtered and dried in vacuo. Yield 0.155 g (56%), M.p. 178-180° C.

reactant | 2-amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine | 9.71×10−4 mole, 0.3 g | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)Cl | C10H5Cl4N3
reactant | ammonia | 8.24 ml | N | H3N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)N | C10H7Cl3N4
